US08202885B2
To 4.0 g of rac-(1R*,4R*)-bicyclo[2.2.2]octane-2,5-dione (intermediate K1A.1), dissolved in 120 mL of toluene, 1.7 mL of ethylene glycol and 0.27 g of TsOH were added and the solution was heated under vigorous stirring to reflux for 3.5 h. The reaction mixture was cooled to rt, quenched with saturated aq. NaHCO3, extracted with Et2O, and the organic phase was evaporated. The crude product was purified by CC with Hex-EtOAc (7:3) to yield 2.41 g of rac-(1R*,4R*)-spiro[bicyclo[2.2.2]octane-2,2′-[1,3]dioxolan]-5-one as yellow oil.

reactant | rac-(1R*,4R*)-bicyclo[2.2.2]octane-2,5-dione | 4.0 g | C12C(CC(C(C1)=O)CC2)=O | C8H10O2
reactant | ethylene glycol | 1.7 mL | C(CO)O | C2H6O2
reactant | TsOH | 0.27 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
product | rac-(1R*,4R*)-spiro[bicyclo[2.2.2]octane-2,2′-[1,3]dioxolan]-5-one | 2.41 g | O1C2(OCC1)C1CC(C(C2)CC1)=O | C10H14O3
